US06812349B2
3. 5-Amino-2,2-ethylenedioxypentane [2-(3-amino-1-propyl)-2-methyl-1,3-dioxolane]
5-Nitro-2,2-ethylenedioxypentane (103 g) is dissolved in methanol (2.0 l) and initially introduced into a hydrogenation flask. After the thorough flushing of the apparatus with N2, 10% Pd/C (10 g) is added. Hydrogenation is then carried out at RT under normal conditions in a stream of H2 for a total of 11 h with vigorous stirring. After the reaction is complete (TLC dichloromethane/methanol=9:1, staining reagent 1.0% strength ethanolic ninhydrin solution), the flask is flushed with N2 and the mixture is filtered off with suction through kieselguhr. The colorless filtrate is concentrated to dryness at T≦40° C. and p≧30 mbar, the title compound (85 g, quant.) first being obtained as a colorless oil, which solidifies to give a wax. TLC (dichloromethane/methanol=9:1), Rf=0.0-0.22.

reactant | 5-Nitro-2,2-ethylenedioxypentane | 103 g | [N+](=O)([O-])CCCC1(C)OCCO1 | C7H13NO4
solvent | methanol | 2.0 l | CO | CH4O
product | 5-Amino-2,2-ethylenedioxypentane | 85 g | NCCCC1(C)OCCO1 | C7H15NO2
